US06734179B2
To a stirred solution of 1.30 g (5.60 mmol) 4-bromo-2-nitroanisole in 25 ml DMSO were added 1.57 g (6.16 mmol) bis(pinacolato)diboron, 123 mg (0.17 mmol) dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium(II) dichloromethane adduct and 1.65 g (16.8 mmol) potassium acetate. The mixture was heated at 80° C. for 2 h and then cooled to room temperature, poured onto water, and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/2 ethyl acetate/hexane then ethyl acetate) afforded 1.39 g 2-(4-methoxy-3-nitro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as an off-white solid. ES-MS m/e (%): 280 (M+H+, 100).

reactant | 4-bromo-2-nitroanisole | 5.60 mmol, 1.30 g | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | bis(pinacolato)diboron | 6.16 mmol, 1.57 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 16.8 mmol, 1.65 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
catalyst | dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium(II) dichloromethane adduct | 0.17 mmol, 123 mg | [CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-methoxy-3-nitro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.39 g | COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-] | C13H18BNO5
